US07465731B2
To a solution of (2E)-3-(6-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}-5-methyl-3-pyridyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (306 mg) in MeOH (5.6 mL) was added hydrogen chloride methanol reagent 10 (1.4 mL, Tokyo Kasei), and the mixture was stirred at ambient temperature for 2 hours. To the reaction mixture was added Men and the solvent was removed in vacuo. Obtained colorless solid was triturated with Men to give (2E)-3-(6-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}-5-methyl-3-pyridyl)-N-hydroxyacrylamide dihydrochloride (202.1 mg) as colorless powder.

reactant | (2E)-3-(6-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}-5-methyl-3-pyridyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 306 mg | C(C1=CC=CC=C1)N1C[C@@H](CC1)NC1=C(C=C(C=N1)/C=C/C(=O)NOC1OCCCC1)C | C25H32N4O3
reactant | hydrogen chloride methanol | CO.Cl
solvent | MeOH | 5.6 mL | CO | CH4O
product | (2E)-3-(6-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}-5-methyl-3-pyridyl)-N-hydroxyacrylamide dihydrochloride | 202.1 mg | Cl.Cl.C(C1=CC=CC=C1)N1C[C@@H](CC1)NC1=C(C=C(C=N1)/C=C/C(=O)NO)C | InChI=1S/C20H24N4O2.2ClH/c1-15-11-17(7-8-19(25)23-26)12-21-20(15)22-18-9-10-24(14-18)13-16-5-3-2-4-6-16;;/h2-8,11-12,18,26H,9-10,13-14H2,1H3,(H,21,22)(H,23,25);2*1H/b8-7+;;/t18-;;/m1../s1
